US06855722B2
f) 3-{5-[2-(2-Methyl-[1,8]naphthyridin-3-yl)-ethyl]-indol-1-yl}-acrylic acid methyl ester
A mixture of 2-methyl-3-[2-(1-triisopropylsilanyl-1H-indol-5-yl)-ethyl]-[1,8]naphthyridine (0.25 g, 0.74 mmol), propynoic acid methyl ester (0.07 g, 0.84 mmol), and tetrabutylammonium fluoride [1.0 M] (2.23 mL, 2.23 mmol) was stirred at room temperature overnight. The solvent was removed under reduced pressure to give a crude mixture which was purified via column chromatography with silica gel, eluting with methylene chloride/methanol (95/5) to give the title compound (66% yield) as an E/Z isomeric mixture. 1H NMR (CDCl3) δ 9.00 (m, 1H), 8.23 (s, 1H), 8.08 (m, 1H), 7.80 (m, 1H), 7.50 (d, 1H). Mass Spectrum (LCMS, ESI) calculated for C22H22N3O2 372.2 (M+H); found 372.2.

reactant | 2-methyl-3-[2-(1-triisopropylsilanyl-1H-indol-5-yl)-ethyl]-[1,8]naphthyridine | 0.74 mmol, 0.25 g | CC1=NC2=NC=CC=C2C=C1CCC=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C28H37N3Si
reactant | propynoic acid methyl ester | 0.84 mmol, 0.07 g | COC(C#C)=O | C4H4O2
reactant | tetrabutylammonium fluoride | 2.23 mmol, 1.0 M, 2.23 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-{5-[2-(2-Methyl-[1,8]naphthyridin-3-yl)-ethyl]-indol-1-yl}-acrylic acid methyl ester | 66% yield | COC(C=CN1C=CC2=CC(=CC=C12)CCC=1C(=NC2=NC=CC=C2C1)C)=O | C23H21N3O2
